2147-12-28 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2147-12-27**] 11:33 AM
 INVASIVE VENTILATION - STOP [**2147-12-27**] 12:10 PM
   intubated in ED and extubated yesterday morning
   [**Hospital3 611**] Microbiology lab ([**Telephone/Fax (1) 8726**])
   Blood cultures x 2 NGTD
   Urine pending->100,000 enteric GNR lactose fermenter
   TTE - nl LVEF, no LVH
   Pressors - weaned down but not yet off
   Urology - scrotal mass likely calcified hydrocele. LDH, BhCG, and AFP
   Surgery - signed off
   Family/PCP:
   [**Name10 (NameIs) 6166**] dropped by and brought hearing aid, glasses, and additional
   history.  Also says patient insists on being full code.  Per her,
   patient's [**Name10 (NameIs) **] has had prostate issues recently w/ ARF and bilat hydro
   related to BPH.  He has been having an indwelling foley changed q 30
   days.  Recently removed 2 days prior to admission and was unable to be
   replaced.  They had called the patient's urologist who stated that they
   will tentatively plan for a TURP and in the meantime he should try to
   urinate q4hrs.  His [**Name10 (NameIs) **] noticed that the night prior to admission he
   was incontinent of urine which was unusual for him.  In addition the
   day of admission he looked generally "unwell" per his VNA who also
   witnessed his dark / black vomit and per his [**Name10 (NameIs) **] he "looked terrible"
   generally without any specific complaints so she brought him to the
   [**Hospital1 **] ER where he then began rigoring, became tachypneic and
   tachycardic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-12-27**] 07:00 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   See above
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient reports pain in right knee. Denies CP, SOB, N/V.
   Flowsheet Data as of  [**2147-12-28**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 77 (76 - 126) bpm
   BP: 108/57(68) {83/47(56) - 117/65(79)} mmHg
   RR: 22 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 5 (2 - 25)mmHg
   Total In:
                                                                  5,243 mL
                                                                    587 mL
   PO:
                                                                    120 mL
                                                                    270 mL
   TF:
   IVF:
                                                                  3,123 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    445 mL
   Urine:
                                                                  2,000 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,243 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 450 (316 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 98
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.31/47/104/23/-2
   Ve: 9.5 L/min
   PaO2 / FiO2: 297
   Physical Examination
   GENERAL: NAD, Sitting up in bed, Comfortable, A and Ox3, MAEs
   HEENT:  Pupils 2 --> bilaterally, MM dry
   CARDIAC: RRR, soft heart sounds, no m/r/g
   LUNG:  CTAB, [**Last Name (un) 8569**] chest
   ABDOMEN:  soft, NT, ND, no masses or organomegaly, negative [**Doctor Last Name 916**]
   GU: large R sided hard scrotal mass
   EXT: WWP, no c/c/e
   Labs / Radiology
   192 K/uL
   9.1 g/dL
   67 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.1 mEq/L
   33 mg/dL
   110 mEq/L
   142 mEq/L
   28.9 %
   37.4 K/uL
        [image002.jpg]
                            [**2147-12-27**]  02:08 AM
                            [**2147-12-27**]  02:27 AM
                            [**2147-12-27**]  07:11 AM
                            [**2147-12-27**]  08:53 AM
                            [**2147-12-27**]  03:28 PM
                            [**2147-12-28**]  03:05 AM
   WBC
   31.8
   37.4
   Hct
   31.7
   29.8
   28.9
   Plt
   225
   192
   Cr
   1.3
   0.9
   TCO2
   24
   23
   25
   Glucose
   128
   67
   Other labs: PT / PTT / INR:36.8/50.4/3.8, Differential-Neuts:55.0 %,
   Band:34.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3
   mmol/L, LDH:269 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   INR 3.8
   Micro
 urine [**12-26**]
 Ecoli
   Blood
 [**12-26**] and [**12-27**] ngtd
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Scrotal mass
 CHOLECYSTITIS, CALCULOUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   86 yoM w/ a h/o COPD, atrial fibrillation on coumadin presents with
   urosepsis and shortness of breath.
   # Sepsis: CBC notable for worsening leukocytosis today, but fever
   improved. Initially presented with fever, tachycardia, and tachypnea.
   OSH urine cultures growing GNRs in the urine, and urine from [**Hospital1 19**]
   growing Ecoli. Pressor requirement improving. Blood cultures ngtd thus
   far.  RUQ u/s suspicious for cholecystitis  but no pain on exam and
   LFTs improving. CXR suspicious for effusion vs pneumonia.
   -f/u [**Hospital3 611**] cultures and [**Hospital1 19**] cultures. TTE with normal EF so
   unlikely cardiogenic shock.
   -attempt to titrate down levophed as possible today with goal SBP
   110-120. Baseline SBP around 100 mmhg
   -broad spectrum abx until culture sensitivies return- vanc / cefepime
   -consider HIDA if develops worsening LFTs or abd pain
   -send central venous O2 sat given hypotension, high CVP and h/o CHF
   - check C diff given very elevated WBC
   # Respiratory failure: Extubated yesterday and on minimal oxygen.
   Unclear reason for initial respiratory failure, but may have been
   pulmonary edema related to sepsis vs mental status changes.
   -low tidal volume ventilation w/ 6-8cc/kg
   -oxygen as needed
   # Afib: Tachycardia responded to fluids and now in sinus rhythm. Will
   hold off on nodal agents until off of pressors entirely.
   -on coumadin, INR above 3 in setting of antibiotic use. Continue to
   hold coumadin.
   -restart home dose betablocker when can tolerate
   # Scrotal mass: calcified mass, no vascular flow.  Urology consulted,
   stated not an acute issue.  Tumor markers PENDING.
   -f/u Urology recs
   -f/u tumor markers- send AFP, bhCG, LDH
   # Dark Emesis: no clear history of coffee ground emesis.  Guaiac
   negative. Hct stable without transfusions.
   -Continue PPI
   -trend Hct
   -guaiac stools x 2
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2147-12-27**] 01:00 AM
   Multi Lumen - [**2147-12-27**] 02:03 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:  Extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care for now

2147-12-28 10:34:00 Physician Attending Progress Note
Chief Complaint: Urosepsis
   HPI:
    See admission note for full details.  86M admitted with probable
   urosepsis
   24 Hour Events:
   - Extubated
   - Pressors weaned
   - urology evaluated
   - Cultures pending
   - Patient wishes to remain full code
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-12-27**] 07:00 AM
   Cefepime
   Infusions:
   Neosynephrine
   Other ICU medications:
   Other medications:
   Miconazole, Pantoprazole, heparin sc
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-28**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.1
   HR: 73 (71 - 87) bpm
   BP: 118/65(77) {83/47(56) - 118/68(79)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 10 (2 - 25)mmHg
   Total In:
                                                                  5,243 mL
                                                                    907 mL
   PO:
                                                                    120 mL
                                                                    510 mL
   TF:
   IVF:
                                                                  3,123 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    605 mL
   Urine:
                                                                  2,000 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,243 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   RR (Spontaneous): 26
   Physical Examination
   General Appearance: Well-appearing elderly M laying in bed
   Eyes / Conjunctiva: Non-icteric
   Head, Ears, Nose, Throat: Slightly dry MM, clear oropharnyx
   Cardiovascular: Irreg irreg, S1, S2
   Extremities/Peripheral Vascular: Swollen R knee,
   Respiratory / Chest: CTAB
   Abdominal: Soft, NT, ND, +BS
   Skin:  Numerous hyperkeratotic patches on face and scalp
   Neurologic: A&Ox3, moves all extremities
   Labs / Radiology
   9.1 g/dL
   192 K/uL
   67 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.1 mEq/L
   33 mg/dL
   110 mEq/L
   142 mEq/L
   28.9 %
   37.4 K/uL
        [image002.jpg]
                            [**2147-12-27**]  02:08 AM
                            [**2147-12-27**]  02:27 AM
                            [**2147-12-27**]  07:11 AM
                            [**2147-12-27**]  08:53 AM
                            [**2147-12-27**]  03:28 PM
                            [**2147-12-28**]  03:05 AM
   WBC
   31.8
   37.4
   Hct
   31.7
   29.8
   28.9
   Plt
   225
   192
   Cr
   1.3
   0.9
   TCO2
   24
   23
   25
   Glucose
   128
   67
   Other labs: PT / PTT / INR:36.8/50.4/3.8, Differential-Neuts:92.0 %,
   Band:3.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   LDH:269 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Urine Cx
 E coli, OSH sensis
 Res to quinolones, ampicilin,
   amp/sulbactam
   Blood Cx
 NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 Likely urosepsis with E. coli
   - On cefepime, f/u cultures and sensis
   - Afebrile, weaned off pressors, will give gentle IVF if BP drops
   - Goal MAP >55
 RESPIRATORY FAILURE, ACUTE
 Now extubated, doing well on NC
   - Supplemental O2 as needed
   - possible new RUL infiltrate on CXR, antibiotics as above for now.
   - Sputum culture if productive cough
 Atrial fibrillation
   - Reasonable rate, add back home meds as needed
 Scrotal mass
 chronic per pt
   - F/u tumor markers recommended by urology, but likely nothing further
   to do
 CHOLECYSTITIS, CALCULOUS
 concern for this based on CT scan, but no
   evidence of this clinicall
   ICU Care
   Nutrition:
   Glycemic Control:  sliding scale
   Lines: Will d/c central line as off pressors
   Multi Lumen - [**2147-12-27**] 02:03 AM
   Prophylaxis:
   DVT: Supratherapeutic INR
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Will update family
   Code status: Full code
   Disposition :  MICU for now, if stable off pressors call out in
   12-24hrs
   Total time spent: 30 minutes

2147-12-29 07:56:00 Physician Attending Progress Note
Chief Complaint: sepsis from UTI
   HPI:
    See admission note for details, in brief 86M w/h/o urine retention
   with urosepsis.
   24 Hour Events:
 d/c
d central line
 BP remains stable off pressors
 C diff positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-12-28**] 04:13 PM
   Metronidazole - [**2147-12-29**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Miconazole, protonix, lopressor
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-29**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 77 (73 - 140) bpm
   BP: 119/71(82) {81/50(59) - 130/75(87)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  2,747 mL
                                                                    179 mL
   PO:
                                                                  1,410 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,337 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    360 mL
   Urine:
                                                                  1,055 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,692 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin, elderly M in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: S1, S2, irreg, irreg, no RMG, JVP ~9
   Extremities/Peripheral Vascular: Warm, mild bilateral edema
   Respiratory / Chest: Bilateral crackles over lower half of lung fields
   bilat
   Abdominal: Soft, NT, ND, +BS
   Neurologic: A&Ox3, moves all extremities
   Labs / Radiology
   9.6 g/dL
   203 K/uL
   85 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   28.9 %
   27.0 K/uL
        [image002.jpg]
                            [**2147-12-27**]  02:08 AM
                            [**2147-12-27**]  02:27 AM
                            [**2147-12-27**]  07:11 AM
                            [**2147-12-27**]  08:53 AM
                            [**2147-12-27**]  03:28 PM
                            [**2147-12-28**]  03:05 AM
                             [**2147-12-29**]  05:24 AM
   WBC
   31.8
   37.4
   27.0
   Hct
   31.7
   29.8
   28.9
   28.9
   Plt
   [**Telephone/Fax (3) 12467**]
   Cr
   1.3
   0.9
   0.6
   TCO2
   24
   23
   25
   Glucose
   128
   67
   85
   Other labs: PT / PTT / INR:28.0/50.4/2.7, ALT / AST:22/40, Alk Phos / T
   Bili:61/0.3, Differential-Neuts:92.0 %, Band:3.0 %, Lymph:2.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, LDH:269 IU/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   CXR
 Read as worsening interstitial infiltrates
   Cultures
 Urine here and OSH w/E. coli, cefepime sensitive, Blood Cx
   NGTD, Cdiff toxin +ve
   Assessment and Plan
 SEPSIS
 Improved, off pressors.  E. coli in urine from both here and
   OSH.
   - Continue cefepime x14d
 C diff associated diarrhea
 Elevated WBC, now improving
   - Continue IV flagyl, if worsens consider adding po vanco, plan for
   10days after completing abx
   - Will d/c PPI
 RESPIRATORY FAILURE, ACUTE
resolved,  without sup O2 requirements
   -- Now appears volume up
   - Gentle diuresis, goal -500-1000cc
   - Incentive spirometry
Afib
 Back on lopressor, rate controlled
   - Restart coumadin
   ICU Care
   Nutrition: Oral diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-12-28**] 11:22 AM
   20 Gauge - [**2147-12-28**] 11:23 AM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer: N/A
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable for floor transfer, Call out
   Total time spent: 30 min

2147-12-29 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Hospital3 611**] mico - E coli - resitant to bactrim, amp, ampsulb,
   cipro, levo, sensitive - to zosyn (mic 4), cefazolin (mic 8), cefepime
   (mic 1)
   - E coli growing in Urine culture from [**Hospital1 19**]
   - Weaned pressors at 10 am. Got 500 cc bolus and 250 cc bolus.
   - OSH central line removed.
   - C diff positive - Started Flagyl.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-12-27**] 07:00 AM
   Cefipime - [**2147-12-28**] 04:13 PM
   Metronidazole - [**2147-12-29**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-29**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 77 (73 - 140) bpm
   BP: 119/71(82) {81/50(59) - 130/75(87)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  2,747 mL
                                                                    178 mL
   PO:
                                                                  1,410 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,337 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    360 mL
   Urine:
                                                                  1,055 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,692 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   203 K/uL
   9.6 g/dL
   85 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   28.9 %
   27.0 K/uL
        [image002.jpg]
                            [**2147-12-27**]  02:08 AM
                            [**2147-12-27**]  02:27 AM
                            [**2147-12-27**]  07:11 AM
                            [**2147-12-27**]  08:53 AM
                            [**2147-12-27**]  03:28 PM
                            [**2147-12-28**]  03:05 AM
                             [**2147-12-29**]  05:24 AM
   WBC
   31.8
   37.4
   27.0
   Hct
   31.7
   29.8
   28.9
   28.9
   Plt
   [**Telephone/Fax (3) 12467**]
   Cr
   1.3
   0.9
   0.6
   TCO2
   24
   23
   25
   Glucose
   128
   67
   85
   Other labs: PT / PTT / INR:28.0/50.4/2.7, ALT / AST:22/40, Alk Phos / T
   Bili:61/0.3, Differential-Neuts:92.0 %, Band:3.0 %, Lymph:2.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, LDH:269 IU/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR [**12-27**]: Interval removal of endotracheal tube. Stable
   cardiomegaly and tortuosity of the thoracic aorta. Slight worsening of
   pulmonary vascular congestion with associated interstitial pulmonary
   edema. Unchanged bibasilar retrocardiac opacities and small effusions,
   left greater than right.
   Microbiology: Ucx [**12-25**]: E coli (different resistance patterns than
   [**Hospital3 **])
   C diff + [**12-27**]
   Assessment and Plan
   86 yoM w/ a h/o COPD, atrial fibrillation on coumadin presents with
   urosepsis and shortness of breath.
   # Sepsis/hypotension: WBC improving.  on cefepime for urosepsis.  E
   coli w/ different resistance patterns here and at [**Hospital3 611**].
   -continue cefepime (plan for 14 day course)
   - + c diff, if not improving in terms of wbc and diarrhea w/ in next 1
   day add PO vancomycin for severe c diff
   -f/u blood cultures
   # Respiratory failure: extubated, doing well.  sating well on 2L NC.
   Wean O2.
   -incentive spirometry
   -diurese w/ 10mg IV lasix w/ goal negative 500cc to 1 liter today
   # Afib: rate controlled, 90s.
   -restart home metoprolol 12.5mg po bid
   -restart coumadin at 3mg daily and follow daily INR
   # Dark Emesis: no clear history of coffee ground emesis.  Guaiac
   negative. Hct stable without transfusions.
   -Continue PPI daily
   -trend Hct
   -guaiac stools x 2
   ICU Care
   Nutrition: heart healthy
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-12-28**] 11:22 AM
   20 Gauge - [**2147-12-28**] 11:23 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: will stop PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor